### PR TITLE
feat(QuantumMechanics): generalize `SpaceDHilbertSpace`

### PR DESCRIPTION
**Pull request by gloges**
Generalizes `SpaceDHilbertSpace` to allow for general `Space d` measures.

Also adds some new `MemHS` lemmas and the linear maps `subspaceProjection` and `restrictIncl` which describe the relationship between `SpaceDHilbertSpace d (μ.restrict Ω)` and `SpaceDHilbertSpace d μ` for a set `Ω` of `Space d`.
The former can be interpreted as the sub-Hilbert space of the latter consisting of functions with support contained in `Ω`, as described in the module docstring.

### CODE REVIEW

**Comment by gloges** [comment]
t-quantum-mechanics

File: Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 1]
```diff
@@ -145,28 +202,98 @@ end
...
+  `SpaceDHilbertSpace d μ` defined by mapping `ψ` to `Ω.indicator ψ`. -/
+def restrictIncl {Ω : Set (Space d)} (hΩ : MeasurableSet Ω) :
+    SpaceDHilbertSpace d (μ.restrict Ω) →ₗ[ℂ] SpaceDHilbertSpace d μ where
+  toFun ψ := mk ((memHS_coe ψ).indicator_of_restrict hΩ)
+  map_add' ψ φ := by
+    rw [← mk_add, mk_eq_iff, ← indicator_add']
+    exact (ae_eq_restrict_iff_indicator_ae_eq hΩ).mp (coeFn_add ψ φ)
+  map_smul' c ψ := by
+    rw [← mk_const_smul, mk_eq_iff, Pi.smul_def, ← indicator_const_smul]
+    exact (ae_eq_restrict_iff_indicator_ae_eq hΩ).mp (coeFn_smul c ψ)
```
Comment (nateabr) [inline Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean:253]: What do you think about using a linear isometry rather than a linear map?

Might help with writing cleaner proofs downstream

Comment (gloges) [reply Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean:253]: Thanks, that makes a lot of sense! I've made this change to `restrictIncl`.

**Comment by nateabr** [comment]
okay I think this looks good, alligns pretty much with what was discussed on zulip, would be good to have a maintainer look at this.

File: Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean [hunk 2]
```diff
@@ -145,28 +202,95 @@ end
...
+
+lemma subspaceProjection_norm_le (Ω : Set (Space d)) (ψ : SpaceDHilbertSpace d μ) :
+    ‖subspaceProjection Ω ψ‖ ≤ ‖ψ‖ := by
+  refine ENNReal.toReal_mono (Lp.eLpNorm_ne_top ψ) ?_
+  refine (eLpNorm_congr_ae (subspaceProjection_apply Ω ψ)).trans_le ?_
+  exact eLpNorm_mono_measure ψ restrict_le_self
+
+/-- The linear isometry including `SpaceDHilbertSpace d (μ.restrict Ω)` as a sub-Hilbert space of
+  `SpaceDHilbertSpace d μ` defined by mapping `ψ` to `Ω.indicator ψ`. -/
+def restrictIncl {Ω : Set (Space d)} (hΩ : MeasurableSet Ω) :
```
Comment (jstoobysmith) [inline Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean]: Maybe `subspaceIncl` to mirror `subspaceProjection`?

Comment (gloges) [reply Physlib/QuantumMechanics/DDimensions/SpaceDHilbertSpace/Basic.lean]: Sounds good - I've made this change.

**Review by jstoobysmith — APPROVED** [review]
WIll merge now
